US08232294B2
Step 7) tert-Butyl 3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenylcarbamate
To a solution of tert-butyl 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamate (800 mg, 1.632 mmol) in ethanol (50 mL) was added a catalytic amount of Pd/C. The suspension was stirred at rt under H2 for 3 h. The reaction mixture was filtered, and the filtrate was concentrated in vacuo to give the title compound as a light green solid (650 mg, 99%).

reactant | tert-butyl 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamate | 1.632 mmol, 800 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F)OC | C28H27FN2O5
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | tert-Butyl 3-fluoro-4-(7-hydroxy-6-methoxyquinolin-4-yloxy)phenylcarbamate | 650 mg, 99% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(OC(C)(C)C)=O | C21H21FN2O5
